US07425634B2
(5a) 2-oxopropyl benzoate
To a pyridine (25 ml) and THF (10 ml) solution of hydroxyacetone (5 g, 67.5 mmol), benzoyl chloride (12 ml, 103 mmol) was added dropwise at 0° C. in a nitrogen atmosphere and the mixture was stirred for 43 hours at room temperature. Ice was added to the reaction mixture, which was then diluted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water, and a saline solution, dried over anhydrous sodium sulfate, and concentrated. The obtained crude product was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/0-1/1 gradient). Desired fractions were concentrated to obtain the title compound (10.56 g, 87.8% yield) as a light yellow oil.

reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | hydroxyacetone | 67.5 mmol, 5 g | OCC(C)=O | C3H6O2
reactant | benzoyl chloride | 103 mmol, 12 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-oxopropyl benzoate | 10.56 g, 87.8% yield | C(C1=CC=CC=C1)(=O)OCC(C)=O | C10H10O3
